US09403831B2
1-((1-(5-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)pyrimidin-2-yl)piperidin-3-yl)methyl)-6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazine (125 mg, 0.22 mmol) was dissolved in CH2Cl2 (5 ml), and then 4 N HCl dissolved in dioxane (1 ml) was added, followed by stirring at room temperature. After the reaction was completed, the reaction mixture was concentrated under reduced pressure, and then purified with ether, to give 6-(1-methyl-1H-pyrazol-4-yl)-1-((1-(5-(1,2,3,6-tetrahydropyridin-4-yl)pyrimidin-2-yl)piperidin-3-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine hydrochloride (90 mg, 82%).

reactant | 1-((1-(5-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)pyrimidin-2-yl)piperidin-3-yl)methyl)-6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazine | 0.22 mmol, 125 mg | CN1CCC(=CC1)C=1C=NC(=NC1)N1CC(CCC1)CN1N=NC=2C1=NC(=CN2)C=2C=NN(C2)C | C24H29N11
reactant | HCl | 4 N | Cl | ClH
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 6-(1-methyl-1H-pyrazol-4-yl)-1-((1-(5-(1,2,3,6-tetrahydropyridin-4-yl)pyrimidin-2-yl)piperidin-3-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine hydrochloride | 90 mg, 82% | Cl.CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)CC2CN(CCC2)C2=NC=C(C=N2)C=2CCNCC2 | InChI=1S/C23H27N11.ClH/c1-32-15-19(11-28-32)20-12-25-21-22(29-20)34(31-30-21)14-16-3-2-8-33(13-16)23-26-9-18(10-27-23)17-4-6-24-7-5-17;/h4,9-12,15-16,24H,2-3,5-8,13-14H2,1H3;1H
